US08222245B2
(7-{5-[2-(Trifluoromethyl)-4-biphenylyl]-1,2,4-oxadiazol-3-yl}-1,2,4,5-tetrahydro-3H-3-benzazepin-3-yl)acetic acid
A mixture of ethyl (7-{5-[2-(trifluoromethyl)-4-biphenylyl]-1,2,4-oxadiazol-3-yl}-1,2,4,5-tetrahydro-3H-3-benzazepin-3-yl)acetate (Preparation 49) (22 mg, 0.04 mmol), aqueous sodium hydroxide (2M, 220 μL, 0.44 mmol) and ethanol (2.2 ml) was heated at 40° C. for 1 h. The reaction mixture was cooled to room temperature and concentrated. The residue was taken up in water, which was then acidified to pH 6 with acetic acid. The aqueous phase was extracted with EtOAc (2×20 ml) before the combined organic fractions were concentrated and the residue was triturated with EtOAc and the title compound was filtered off and dried in a vacuum oven to give a white solid (13 mg, 0.03 mmol). δH (d6DMSO, 400 MHz): 8.52 (1H, d), 8.50 (1H, dd), 7.92-7.86 (2H, m), 7.73 (1H, d), 7.54-7.49 (3H, m), 7.44-7.35 (3H, m), 3.18 (2H, s), 3.05-2.96 (4H, m), 2.85-2.79 (4H, m); MS (ES−): C27H22F3N3O3 requires 493; found 492 [M−H+].

reactant | ethyl (7-{5-[2-(trifluoromethyl)-4-biphenylyl]-1,2,4-oxadiazol-3-yl}-1,2,4,5-tetrahydro-3H-3-benzazepin-3-yl)acetate | 0.04 mmol, 22 mg | FC(C1=C(C=CC(=C1)C1=NC(=NO1)C1=CC2=C(CCN(CC2)CC(=O)OCC)C=C1)C1=CC=CC=C1)(F)F | C29H26F3N3O3
reactant | sodium hydroxide | 0.44 mmol, 2M, 220 μL | [OH-].[Na+]
solvent | ethanol | 2.2 ml | C(C)O | C2H6O
product | (7-{5-[2-(Trifluoromethyl)-4-biphenylyl]-1,2,4-oxadiazol-3-yl}-1,2,4,5-tetrahydro-3H-3-benzazepin-3-yl)acetic acid | 0.03 mmol, 13 mg | FC(C1=C(C=CC(=C1)C1=NC(=NO1)C1=CC2=C(CCN(CC2)CC(=O)O)C=C1)C1=CC=CC=C1)(F)F | C27H22F3N3O3
